US07893267B2
0.28 g (1.3 mmol) of 2-amino-6-cyano-1H-benzoimidazole-4-carboxylic acid methyl ester was added to a mixture of 0.22 g (1.3 mmol) of isoquinoline-3-carboxylic acid monohydrate, 0.49 g (1.3 mmol) of HBTU, 3 mL of DMF and 1 mL of DIEA to produce 6-cyano-2-[(isoquinoline-3-carbonyl)-amino]-1H-benzoimidazole-4-carboxylic acid methyl ester, according to General Procedure A. LCMS: 373.0 (M+1)+.

reactant | 2-amino-6-cyano-1H-benzoimidazole-4-carboxylic acid methyl ester | 1.3 mmol, 0.28 g | COC(=O)C1=CC(=CC=2NC(=NC21)N)C#N | C10H8N4O2
reactant | isoquinoline-3-carboxylic acid monohydrate | 1.3 mmol, 0.22 g | O.C1=NC(=CC2=CC=CC=C12)C(=O)O
reactant | HBTU | 1.3 mmol, 0.49 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 6-cyano-2-[(isoquinoline-3-carbonyl)-amino]-1H-benzoimidazole-4-carboxylic acid methyl ester | COC(=O)C1=CC(=CC=2NC(=NC21)NC(=O)C=2N=CC1=CC=CC=C1C2)C#N | C20H13N5O3
